Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
cough, SOB, fever 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with history of DM type I, osteopenia, depression, 
recent L olecranon fracture fix 2 weeks ago, presents with 2 
weeks of cough, SOB, fatigue. Patient reports that she felt 
congesting shortly following her surgery 2 weeks ago at ___ 
___, which progressively turned into a cough. She's felt 
fatigued and slightly SOB this entire time, she didn't take her 
temperature at home, but felt warm at times. Tried cough 
medications which did not help.  
.  
In the ED, a CXR was performed which showed RLL pneumonia, but 
also with concerns for malignancy given atypical shape of the 
consolidation. Given her recent surgery, PE was ruled out with 
CTA, which was negative. Patient was given tylenol and 
levofloxacin 750 mg IV x1 in the ED prior to transfer. Vitals on 
transfer were: 92, 119/98, 15, 99%2L.  
.  
On the floor, patient reports feeling more comfortable. Still 
has a bit of a cough. No pleuritic chest pain, not feeling short 
of breath. No palpitations. Denies any chest pain, nausea, 
abdominal pain. Only complaint is that her sciatica pain is a 
little worse because it is hard for her to find a comfortable 
position to lie in the hospital bed with her arm in a sling.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies chills, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea. Denied cough, 
shortness of breath. Denied chest pain or tightness, 
palpitations. Denied nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria.  

 
Past Medical History:
DM type I c/b neuropathy  
osteopenia with multiple fractures - right 10th rib ___, 
left foot ___, olecranon fracture ___  
depression  

 
Social History:
___
Family History:
Mother's side - DM II  
Father's side - DM II, CAD  

 
Physical Exam:
Vitals: 103 128/56 92 18 98%3L  
General: AAOx3, NAD, breathing comfortably  
HEENT: Sclera anicteric, MMM, oropharynx clear, no LAD  
Neck: supple, JVP not elevated, no LAD  
Lungs: RLL dull to percussion, faint rales in RLL, no wheezes, 
grossly good air movement  
CV: RRR, S1S2, II/VI systolic ejection murmur  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: LUE - nontender, nonerythematous, in a sling. Incision 
clean/dry/intact. Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  

 
Pertinent Results:
On admission:

___ 08:00PM BLOOD WBC-10.3 RBC-3.61* Hgb-11.5* Hct-34.0* 
MCV-94 MCH-31.9 MCHC-33.9 RDW-12.7 Plt ___
___ 08:00PM BLOOD Neuts-90* Bands-2 Lymphs-1* Monos-3 Eos-0 
Baso-0 ___ Metas-3* Myelos-1*
___ 08:00PM BLOOD ___ PTT-22.9 ___
___ 08:00PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 08:00PM BLOOD Glucose-98 UreaN-21* Creat-0.6 Na-133 
K-3.6 Cl-99 HCO3-25 AnGap-13
___ 08:00PM BLOOD ALT-19 AST-24 AlkPhos-33* TotBili-0.6
___ 08:00PM BLOOD Lipase-21
___ 08:19PM BLOOD Lactate-1.4
___ 10:40PM URINE Color-Straw Appear-Clear Sp ___
___ 10:40PM URINE Blood-NEG Nitrite-NEG Protein-25 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:40PM URINE RBC-0 ___ Bacteri-FEW Yeast-NONE 
___

On discharge:

___ 05:15AM BLOOD WBC-11.3* RBC-2.91* Hgb-9.5* Hct-27.8* 
MCV-96 MCH-32.7* MCHC-34.3 RDW-12.7 Plt ___
___ 05:15AM BLOOD Glucose-205* UreaN-14 Creat-0.6 Na-130* 
K-3.8 Cl-98 HCO3-24 AnGap-12
___ 05:15AM BLOOD Calcium-8.2* Phos-1.5* Mg-1.9
Blood Culture, Routine (Pending)
URINE CULTURE (Final ___: MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION.
GRAM STAIN (Final ___ PMNs and <10 epithelial 
cells/100X field. 1+    (<1 per 1000X FIELD):   GRAM POSITIVE 
COCCI IN PAIRS. 
RESPIRATORY CULTURE (Final ___: SPARSE GROWTH Commensal 
Respiratory Flora. 
Legionella Urinary Antigen  (Final ___: NEGATIVE FOR 
LEGIONELLA SEROGROUP 1 ANTIGEN. 

ECG ___:
Normal sinus rhythm. Tracing is within normal limits. No 
previous tracing available for comparison.  

Chest (PA & LAT) ___:
UPRIGHT AP AND LATERAL VIEWS OF THE CHEST: The heart size is 
normal. The aorta is slightly unfolded. The mediastinal and 
hilar contours are otherwise unremarkable. Within the medial 
aspect of the right lung base, there is a focal rounded opacity 
identified. The left lung is clear. No pneumothorax or pleural 
effusion is present. There are no acute osseous findings. 
  
IMPRESSION: Rounded opacity projecting over the medial right 
lung base, which could represent an area of inflammation or 
infection. However, the rounded morphology may be suggestive of 
an underlying mass lesion, and further evaluation with CT is 
recommended. 

CTA Chest ___:
CTA CHEST: The pulmonary arterial vasculature is normally 
opacified to the subsegmental level, without evidence of filling 
defect to suggest pulmonary embolism. The aorta is normal in 
size and caliber without acute aortic pathology. The remaining 
great mediastinal vessels are normal.  
  
In the right lower lobe, there is a large consolidative opacity, 
measuring approximately 8.6 x 6.8 cm in maximum cross-sectional 
dimension (image 3:87).  Pulmonary arterial branches normally 
traverse through the consolidation area, compatible with the "CT 
angiogram sign". There are no pleural effusions or pneumothorax. 
No other pulmonary nodule or mass is noted.  
  
The heart is normal in size without pericardial effusion. The 
central tracheobronchial tree is patent. There is no 
mediastinal, hilar, or axillary lymphadenopathy. 
  
The study is not designed for subdiaphragmatic diagnosis. A 
subcentimeter hypodensity in the right hepatic lobe (image 
3:106) is too small to be fully characterized and a sub-cm 
hypodensity in the left lobe of the liver (3:100) is likely a 
cyst. The right adrenal is not visualized. The left adrenal is 
only partially imaged, but no abnormality is noted. 
  
BONE WINDOW: There are no suspicious lytic or sclerotic lesions. 

  
IMPRESSION: 
1. No pulmonary embolism or acute aortic pathology. 
2. Right lower lobe airspace consolidation, with demonstration 
of the "CT angiogram" sign. Differential diagnosis includes 
pneumonia, bronchioloalveolar carcinoma, and lymphoma. Recommend 
followup imaging after treatment to ensure clearance. 
 
Brief Hospital Course:
___ yo female with DM I, osteopenia, recent L olecranon fracture 
fix 2 weeks ago presenting with SOB, fever, cough, and found to 
have RLL opacity on CXR  
.  
# Fever: Pt presented with fever, cough, SOB, and pain on deep 
inspiration consistent with pneumonia.  CXR and CTA chest 
revealed RLL opacity concerning for PNA.  (In setting of recent 
surgery of olecranon fracture, CTA chest was performed to rule 
out PE.)  However, given atypical appearance of consolidation, 
malignancy could not be ruled out.  Pt was advised to have 
repeat imaging upon resolution of pneumonia and was scheduled 
for outpatient CT chest.  She was started on oral levofloxacin 
for CAP.  Gram stain of sputum revealed 1+ gram positive cocci 
in pairs; culture grew sparse commensal respiratory flora.  
Urine legionella was negative.  Despite her recent hospital 
stay, she was not started on treatment for HCAP as she appeared 
nontoxic and improved significantly over 24 hours on 
levofloxacin.  She was discharged home with instructions to 
complete a 7 day course of levofloxacin.  
.  
# Left olecranon fracture: Pt reported having been at an OSH for 
two days for surgery for her left olecranon fracture two weeks 
prior to presentation to ___.  Left arm was kept in a sling.  
She reported no pain in the arm.  Incision was clean, dry, and 
intact.  
. 
# DM type I: Pt had humalog insulin pump which was continued 
during her hospital stay.  Per protocol, she was evaluated by 
the ___ diabetes team and seen by the nutritionist.  Per 
___ recs, she was continued on her home pump settings as 
blood glucose remained grossly within target range.  She was 
continued on her home aspirin.  
.  
# Depression: No acute issues.  She was continued on her home 
citalopram  
.  
# Osteopenia: Pt had history of multiple fractures, most 
recently a fracture of her left olecranon which was repaired two 
weeks prior to admission.  She was continued on her calcium and 
vitamin D.  She was also taking alendronate once a week which 
should be continued as outpatient.   
 
Medications on Admission:
albuterol inhaler ___ puff q4-6 hr prn SOB  
citalopram 40 mg daily  
alendronate 70 mg qweek  
humalog via insulin pump  
calcium carbonate 650 mg daily  
MVI  
ASA 81 mg daily  
vitamin D 400 units daily  

 
Discharge Medications:
1. citalopram 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 4 days.
Disp:*4 Tablet(s)* Refills:*0*
4. insulin pump cartridge     Cartridge Subcutaneous
5. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. calcium carbonate 650 mg (1,625 mg) Tablet Sig: One (1) 
Tablet PO once a day.  
8. alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week.  

9. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pneumonia
.
Secondary:
Type 1 DM
Left olecranon fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you in the hospital.  You were 
admitted with pneumonia and treated with antibiotics for this.  
You will need to continue taking the antibiotics at home for 
four more days.  You should also follow up with your primary 
care doctor to schedule a repeat chest x-ray upon resolution of 
your symptoms.  
.
The following medications were added:

1) We ADDED Levofloxacin 750mg daily for four more days
 
Followup Instructions:
___